US04833212
(Synthesis of DBN/MgCl2 complex)
124.2 g (1.0 mole) of DBN and 47.6 g (0.5 moles) of anhydrous MgCl2 were refluxed in 250 g of acetone with heating for 10 hours, and then cooled. The deposited crystals were recovered therefrom by filtration, washed with acetone and dried, whereby 129.0 g of DBN/MgCl2 complex compound was obtained (yield: 75.1%).

reactant | DBN | 1.0 mole, 124.2 g | C1CC2=NCCCN2C1 | C7H12N2
reactant | MgCl2 | 0.5 moles, 47.6 g | [Mg+2].[Cl-].[Cl-]
solvent | acetone | 250 g | CC(=O)C | C3H6O
product | DBN MgCl2 | yield: 75.1% | C1CC2=NCCCN2C1.[Mg+2].[Cl-].[Cl-] | InChI=1S/C7H12N2.2ClH.Mg/c1-3-7-8-4-2-6-9(7)5-1;;;/h1-6H2;2*1H;/q;;;+2/p-2
